US04590195
4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-[2-(imidazolidin-2-on-1-ylcarbonylamino)ethoxymethyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine
To a solution of 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine (1.0 g) in a mixture of chloroform (dried over alumina) (20 ml) and triethylamine (2 ml) was added imidazolidin-2-on-1-yl carbonyl chloride (0.36 g) in one portion and the mixture stirred at room temperature for 18 hours. After evaporation to dryness, the resultant oil was partitioned between 5% aqueous sodium carbonate and methylene chloride. The combined organic liquors were dried (MgSO4), filtered and evaporated to give 0.7 g of a yellow oil which crystallised from diisopropyl ether on standing to give pure title compound, (0.4 g), m.p. 145° C. Found: C, 54.94; H, 5.62; N, 10.62. C24H29ClN4O7 requires C, 55.33; H, 5.61; N, 10.76%.

reactant | 2-(2-aminoethoxymethyl)-4-(2-chlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 1.0 g | NCCOCC=1NC(=C(C(C1C(=O)OCC)C1=C(C=CC=C1)Cl)C(=O)OC)C | C20H25ClN2O5
reactant | imidazolidin-2-on-1-yl carbonyl chloride | 0.36 g | N1(C(NCC1)=O)C(=O)Cl | C4H5ClN2O2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 2 ml | C(C)N(CC)CC | C6H15N
product | 4-(2-Chlorophenyl)-3-ethoxycarbonyl-2-[2-(imidazolidin-2-on-1-ylcarbonylamino)ethoxymethyl]-5-methoxycarbonyl-6-methyl-1,4-dihydropyridine | 0.7 g | ClC1=C(C=CC=C1)C1C(=C(NC(=C1C(=O)OC)C)COCCNC(=O)N1C(NCC1)=O)C(=O)OCC | C24H29ClN4O7
